US05804097
b. 8-[4-(5-Octylpyrimidin-2-yl)phenoxy]octan-1-ol
42.0 g (0.14 mol) of 2-(4-hydroxyphenyl)-5-octylpyrimidine are dissolved in 400 ml of DMF, and 38.7 g (0.28 mol) of K2CO3 and 36.0 g (0.21 mol) of 8-chlorooctan-1-ol are added. The mixture is subsequently heated at 100° C. with monitoring by TLC until the reaction is complete. The mixture is poured into 3 l of ice water, and the precipitated product is filtered off with suction, washed with water, dried under reduced pressure and recrystallized from cyclohexane.

reactant | 2-(4-hydroxyphenyl)-5-octylpyrimidine | 0.14 mol, 42.0 g | OC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCCC | C18H24N2O
reactant | K2CO3 | 0.28 mol, 38.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 8-chlorooctan-1-ol | 0.21 mol, 36.0 g | ClCCCCCCCCO | C8H17ClO
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 8-[4-(5-Octylpyrimidin-2-yl)phenoxy]octan-1-ol | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(OCCCCCCCCO)C=C1 | C26H40N2O2
